US05605896
8-{[3-[4-(2-Methoxyphenyl)-1-piperazinyl]propylamino]methyl}-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran trihydrochloride.
To a mixture of 0.53 g of 8-formyl-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran, 0.55 g of 3-[4-(2-methoxyphenyl)-1-piperazinyl]propylamine, 70 ml of 1,2-dichloroethane and 0.11 ml of acetic acid was added 0.64 g of sodium triacetoxyborohydride. The mixture was stirred at room temperature for 4.5 hours. The reaction mixture was poured into 100 ml of water and acidified with 37% hydrochloric acid. This was followed addition of cold 6N aqueous sodium hydroxide to make the solution alkaline. The mixture was extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous sodium sulfate. After evaporation of the solvent, (in vacuo) the residue was purified by flash chromatography on silica gel eluting with chloroform/methanol (100:5). The fractions containing the pure base were combined and the solvent was evaporated to dryness. The title compound, obtained as a base, was converted in the usual manner into the trihydrochloride salt, and crystallized from ethanol, m.p. 170°-176° C. (dec.).

reactant | 8-formyl-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran | 0.53 g | C(=O)C1=CC=CC=2C(C(=C(OC21)C2=CC=CC=C2)C)=O | C17H12O3
reactant | 3-[4-(2-methoxyphenyl)-1-piperazinyl]propylamine | 0.55 g | COC1=C(C=CC=C1)N1CCN(CC1)CCCN | C14H23N3O
reactant | sodium triacetoxyborohydride | 0.64 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | 6N | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
solvent | acetic acid | 0.11 ml | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 70 ml | ClCCCl | C2H4Cl2
product | 8-{[3-[4-(2-Methoxyphenyl)-1-piperazinyl]propylamino]methyl}-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran trihydrochloride | Cl.Cl.Cl.COC1=C(C=CC=C1)N1CCN(CC1)CCCNCC1=CC=CC=2C(C(=C(OC21)C2=CC=CC=C2)C)=O | InChI=1S/C31H35N3O3.3ClH/c1-23-29(35)26-13-8-12-25(31(26)37-30(23)24-10-4-3-5-11-24)22-32-16-9-17-33-18-20-34(21-19-33)27-14-6-7-15-28(27)36-2;;;/h3-8,10-15,32H,9,16-22H2,1-2H3;3*1H
